US09062070B2
2-Methoxy-4-[(3S,9aS)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile hydrochloride
tert-Butyl (3S,9aS)-3-(4-cyano-3-methoxyphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate (38.0 mg, 0.102 mmol) was dissolved in 10 mL of 4 M HCl in dioxane and stirred at room temperature for 8 h. The mixture was concentrated to ¼ the original volume and diluted with 5 mL of diethyl ether. The precipitate was filtered and dried under high vacuum to afford the title compound: 1H NMR (DMSO-d6, Z (cis) isomer, 500 MHz) δ 7.77 (d, J=7.9 Hz, 1H), 7.32 (s, 1H), 7.19 (d, J=7.9 Hz, 1H), 4.95 (bs, 1H), 4.08 (bs, 2H), 3.96 (s, 3H), 3.85-3.60 (bs, 3H), 3.58-3.34 (m, 6H); LC/MS: (IE, m/z) [M+1]+=274.

reactant | tert-Butyl (3S,9aS)-3-(4-cyano-3-methoxyphenyl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 0.102 mmol, 38.0 mg | C(#N)C1=C(C=C(C=C1)[C@H]1CN2[C@H](CO1)CN(CC2)C(=O)OC(C)(C)C)OC | C20H27N3O4
reactant | HCl | 4 M, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Methoxy-4-[(3S,9aS)-octahydropyrazino[2,1-c][1,4]oxazin-3-yl]benzonitrile hydrochloride | Cl.COC1=C(C#N)C=CC(=C1)[C@H]1CN2[C@H](CO1)CNCC2 | InChI=1S/C15H19N3O2.ClH/c1-19-14-6-11(2-3-12(14)7-16)15-9-18-5-4-17-8-13(18)10-20-15;/h2-3,6,13,15,17H,4-5,8-10H2,1H3;1H/t13-,15+;/m0./s1
